US07745451B2
[6-(3-Chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl]-(3,3-dimethyl-2,3-dihydro-1-methyl-indol-6-yl)-amine
To a stirred mixture of [6-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl]-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-amine HCl salt (10 mg), DMF (5 mL), and K2CO3 (50 mg) was added MeI (50 μL). The reaction mixture was stirred at rt for 5 h, and then diluted with EtOAc (50 mL). The organic phase was washed with brine, dried (Na2SO4) and concentrated. The residue was purified by column to give an off-white solid (7 mg).

reactant | [6-(3-chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl]-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-amine HCl salt | 10 mg | Cl.ClC=1C(=NC=CC1)N1CC2=C(N=CN=C2NC2=CC=C3C(CNC3=C2)(C)C)CC1
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | MeI | 50 μL | CI | CH3I
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | [6-(3-Chloro-pyridin-2-yl)-5,6,7,8-tetrahydro-pyrido[4,3-d]pyrimidin-4-yl]-(3,3-dimethyl-2,3-dihydro-1-methyl-indol-6-yl)-amine | 7 mg | ClC=1C(=NC=CC1)N1CC2=C(N=CN=C2NC2=CC=C3C(CN(C3=C2)C)(C)C)CC1 | C23H25ClN6
